US08119805B2
Stage (v): Perfluorophenyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propane-1-sulfonate
1-Ethylpiperidine hypophosphite (1.184 g, 6.614 mmol) were weighed into the reaction flask under an inert gas, and methylene chloride (10 ml) was added. The solution was cooled with ice-water, and 2,3,4,5,6-pentafluorophenyl 1-ethylenesulfonate (0.218 g, 0.794 mmol) [Org. Lett.; 2002; 4(15); 2549-2551] and 2-(iodomethyl)-1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidine (0.28 g, 0.661 mmol) was added at 0° C. Triethylborane solution (0.03 ml, 1 mol/l) was added to the reaction mixture and compressed air was then passed through the mixture for 10 sec. After stirring for 5 min the addition of triethylborane solution-compressed air was repeated with the same amount. After thin layer chromatography control, the addition of triethylborane soln.-compressed air was repeated again with the same amount. The reaction mixture was washed with cooled water (10 ml) and cooled saturated sodium bicarbonate soln. (10 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with hexane/diethyl ether/methylene chloride (6:1:1) Yield: 50 mg (13%)

reactant | 1-Ethylpiperidine hypophosphite | 6.614 mmol, 1.184 g | [PH2](=O)O.C(C)N1CCCCC1
reactant | 2,3,4,5,6-pentafluorophenyl 1-ethylenesulfonate | 0.794 mmol, 0.218 g | C=CS(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C8H3F5O3S
reactant | 2-(iodomethyl)-1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidine | 0.661 mmol, 0.28 g | ICC1N(CCCC1)S(=O)(=O)C1=C(C=C(C=C1C)OC)C | C15H22INO3S
reactant | Triethylborane | 1 mol/l, 0.03 ml | C(C)B(CC)CC | C6H15B
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | Perfluorophenyl 3-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)piperidin-2-yl)propane-1-sulfonate | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1C(CCCC1)CCCS(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)C | C23H26F5NO6S2
